US04150137
A mixture of 5 g of 2-(4-isobutylphenyl)propionic acid, 7.3 g of n-propyl alcohol and 7.1 g of sulfuric acid was refluxed for 6 hours. After cooling, to the mixture was added ice-water. The resulting mixture was extracted with ether, and the extract was dehydrated. The ether was removed by distillation from the extract to leave an oily product. This product was distilled in vacuo to give 5.4 g of 2-(4-isobutylphenyl)propionic acid-n-propyl ester as a colorless oil, boiling at 100°-103° C./0.3 mmHg. Mass spectrum: parent ion 248 m/e.

reactant | 2-(4-isobutylphenyl)propionic acid | 5 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
reactant | sulfuric acid | 7.1 g | S(O)(O)(=O)=O | H2O4S
reactant | n-propyl alcohol | 7.3 g | C(CC)O | C3H8O
product | 2-(4-isobutylphenyl)propionic acid-n-propyl ester | 5.4 g | C(CC)OC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C16H24O2
